US08859768B2
A mixture of 3-[5-(2-chlorophenyl)-2-iodo-1,3-oxazol-4-yl]-4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazole (0.11 g, 0.22 mmol), tetrakis(triphenylphosphine)palladium(0) (0.050 g, 0.043 mmol), (4-acetamidophenyl)boronic acid (0.115 g, 0.64 mmol) and cesium carbonate (0.46 g, 1.40 mmol) in 1,4-dioxane (2 mL) and water (0.2 mL) was sealed in a tube and subjected to microwave irradiation at 150° C. for 60 min. The reaction mixture was concentrated and the residue was purified by column chromatography to give N-{4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]phenyl}acetamide (0.100 g, 91%). LCMS (AA): m/z=510 (M+H).

reactant | 3-[5-(2-chlorophenyl)-2-iodo-1,3-oxazol-4-yl]-4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazole | 0.22 mmol, 0.11 g | ClC1=C(C=CC=C1)C1=C(N=C(O1)I)C1=NN=CN1COCC[Si](C)(C)C | C17H20ClIN4O2Si
reactant | (4-acetamidophenyl)boronic acid | 0.64 mmol, 0.115 g | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | cesium carbonate | 1.40 mmol, 0.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.043 mmol, 0.050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]phenyl}acetamide | 0.100 g, 91% | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC=C(C=C1)NC(C)=O)C1=NN=CN1COCC[Si](C)(C)C | C25H28ClN5O3Si
